US05412059
2-(4-Hydroxyphenyl)benzimidazole
A mixture of 1,2-diaminobenzene (25.17 g, 0.233 mol), phenyl-4-hydroxphenylbenzoate (50.17 g, 0.234 mol), diphenylsulfone (121.15 g), and toluene (100 ml) were heated under a nitrogen atmosphere for 16 hours at 150° C. The toluene was removed and the temperature increased to 260° C. and maintained for two and one-half hours. A vacuum was subsequently applied and the temperature increased to 290° C. and maintained for one and one-half hours. The warm reaction mixture was precipitated in toluene, washed in hot toluene, and subsequently dried at 110° C. to afford 45.00 g (92% crude yield) of a red-tan powder, m.p. (DTA) 279° C. (broad). The solid was recrystallized from 40% aqueous ethanol using charcoal to afford a light tan crystalline product (31.46 g, 64% yield). The compound exhibited a sharp melt by DTA with an endothermic minimum at 280° C. Anal. calcd for C13H10N2O: C, 74.27%; H, 4.79%; N, 13.32%; Found: C, 74.21%; H, 4.75%; N, 13.21%.

reactant | 1,2-diaminobenzene | 0.233 mol, 25.17 g | NC1=C(C=CC=C1)N | C6H8N2
reactant | diphenylsulfone | 121.15 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10O2S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Hydroxyphenyl)benzimidazole | 31.46 g, 64% yield | OC1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2O
